US03989737
2-(N-allyloxybutyrimidoyl)-5,5-dimethyl-3-methoxy-2-cyclohexene-1-one
Silver salt of 2-(1-allyloxyaminobutylidene)-5,5-dimethylcyclohexane-1,3-dione (25 g) was suspended in 100 ml of ether and methyl iodide (34 g) was added. The mixture was refluxed for 6 hours with stirring. After filtering silver iodide, the solvent was removed in vacuo and then poured into water. The oil thus separated was extracted with chloroform and washed with one normal sodium hydroxide and dried over magnesium sulfate. The solvent was removed in vacuo and the desired product was obtained as an oily substance.

reactant | 2-(1-allyloxyaminobutylidene)-5,5-dimethylcyclohexane-1,3-dione | 25 g | C(C=C)ONC(CCC)=C1C(CC(CC1=O)(C)C)=O | C15H23NO3
reactant | methyl iodide | 34 g | CI | CH3I
solvent | ether | 100 ml | CCOCC | C4H10O
catalyst | Silver | [Ag] | Ag
product | 2-(N-allyloxybutyrimidoyl)-5,5-dimethyl-3-methoxy-2-cyclohexene-1-one | C(C=C)ON=C(CCC)C=1C(CC(CC1OC)(C)C)=O | C16H25NO3
